US04666907
Preparation of 2-amino-5-methoxythiophenol
To a stirred solution of 8N potassium hydroxide (1.3 l) was added 2-amino-6-methoxybenzothiazole (750 g) and the mixture was refluxed overnight. The resulting solution was neutralized by the addition of conc. HCl to pH 8.0, then acetic acid to pH 6.0. The precipitate which formed was filtered and washed with water to afford the title compound which was used immediately in Step 3.

reactant | potassium hydroxide | 8N, 1.3 l | [OH-].[K+]
reactant | 2-amino-6-methoxybenzothiazole | 750 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | HCl | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-amino-5-methoxythiophenol | NC1=C(C=C(C=C1)OC)S | C7H9NOS
